US08110575B2
1-(6-(indoline-1-carbonyl)pyrimidin-4-yl)spiro[piperidine-4,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one
43 mg (0.21 mmol) spiro[piperidine-4,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one were added to 50 mg (0.19 mmol) (6-chloro-pyrimidin-4-yl)-(2,3-dihydro-indol-1-yl)-methanone and 52 μL (0.58 mmol) DIPEA in 5 mL DMF. The reaction mixture was stirred for 2 h at RT. The reaction mixture was evaporated down using the rotary evaporator and the residue was mixed with 20 mL water and stirred for 30 min at RT. The product precipitated was suction filtered, stirred with diisopropylether and isopropanol, suction filtered and dried.

reactant | spiro[piperidine-4,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one | 0.21 mmol, 43 mg | N1C(C2(C=3C1=NC=CC3)CCNCC2)=O | C11H13N3O
reactant | (6-chloro-pyrimidin-4-yl)-(2,3-dihydro-indol-1-yl)-methanone | 0.19 mmol, 50 mg | ClC1=CC(=NC=N1)C(=O)N1CCC2=CC=CC=C12 | C13H10ClN3O
reactant | DIPEA | 0.58 mmol, 52 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-(6-(indoline-1-carbonyl)pyrimidin-4-yl)spiro[piperidine-4,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one | N1(CCC2=CC=CC=C12)C(=O)C1=CC(=NC=N1)N1CCC2(C(NC3=NC=CC=C32)=O)CC1 | C24H22N6O2
